US08912188B2
To a solution of methyl 2-(4-acetamidophenyl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate (110 mg, 0.28 mmol) in methanol (30 mL) and water (1 mL) was added sodium hydroxide (45 mg, 1.12 mmol), and the reaction mixture was stirred overnight at room temperature. The resulting mixture was concentrated in vacuo, dissolved in water (50 ml), adjusted to pH 6 with HCl (1N), and collected by filtration to give 2-(4-acetamidophenyl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylic acid as a yellow solid (70 mg, 66%).

reactant | methyl 2-(4-acetamidophenyl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 0.28 mmol, 110 mg | C(C)(=O)NC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N(C(C)C)C)C(=O)OC | C22H24N4O3
reactant | sodium hydroxide | 1.12 mmol, 45 mg | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 2-(4-acetamidophenyl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylic acid | 70 mg, 66% | C(C)(=O)NC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N(C(C)C)C)C(=O)O | C21H22N4O3
